US07314886B2
1.A. Synthesis of N-(4-Bromo-2-ethyl-phenyl)-2-hydroximino-acetoamide
To a suspension of 4-bromo-2-ethylaniline (50.0 g, 250 mmol) in water (1000 mL) was added concentrated hydrochloric acid (25 mL), sodium sulfate (220 g), and hydroxylamine hydrochloride (56.25 g), followed by addition of chloral hydrate (44.0 g). The reaction mixture was heated to 90° C. using an oil bath for 1 hour. After cooling down to room temperature, it was extracted with ethyl acetate. Extract was dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (31.1 g, 46% yield). 1H NMR (DMSO-d6) δ 12.24 (s, 1H), 9.56 (s, 1H), 7.68 (s, 1H), 7.41 (m, 3H), 2.58 (q, 2H), 1.11 (t, 3H).

reactant | 4-bromo-2-ethylaniline | 250 mmol, 50.0 g | BrC1=CC(=C(N)C=C1)CC | C8H10BrN
reactant | hydrochloric acid | 25 mL | Cl | ClH
reactant | sodium sulfate | 220 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 56.25 g | Cl.NO
reactant | chloral hydrate | 44.0 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
solvent | water | 1000 mL | O | H2O
product | N-(4-Bromo-2-ethyl-phenyl)-2-hydroximino-acetoamide | 31.1 g, 46% yield | BrC1=CC(=C(C=C1)NC(C=NO)=O)CC | C10H11BrN2O2
